US07078414B2
0.62 mL (7.18 mmol) of oxalyl chloride is added to 1.1 g (3.59 mmol) of 3-carboxy-4-trifluoromethyl-1-(isoquinolin-1-yl)-1H-pyrrole dissolved in 30 mL of dichloromethane at a temperature in the region of 20° C. under an argon atmosphere. After stirring for 2 hours at a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), giving 1.22 g of 3-chlorocarbonyl-4-trifluoromethyl-1-(isoquinolin-1-yl)-1H-pyrrole hydrochloride in the form of a cream-colored solid, which is used directly in the following step.

reactant | oxalyl chloride | 7.18 mmol, 0.62 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-carboxy-4-trifluoromethyl-1-(isoquinolin-1-yl)-1H-pyrrole | 3.59 mmol, 1.1 g | C(=O)(O)C1=CN(C=C1C(F)(F)F)C1=NC=CC2=CC=CC=C12 | C15H9F3N2O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-chlorocarbonyl-4-trifluoromethyl-1-(isoquinolin-1-yl)-1H-pyrrole hydrochloride | 1.22 g | Cl.ClC(=O)C1=CN(C=C1C(F)(F)F)C1=NC=CC2=CC=CC=C12 | InChI=1S/C15H8ClF3N2O.ClH/c16-13(22)11-7-21(8-12(11)15(17,18)19)14-10-4-2-1-3-9(10)5-6-20-14;/h1-8H;1H
